US04524067
When it is subjected to methanolysis, it gives 1 mol each of methylglucoside, methylgalactoside, methylarabinoside and methylglucuronide. A completely methylated compound (C68H116O24) obtained by methylation of soyasaponin A2 with methyl iodide, dimethyl sulfoxide and sodium hydride gives 1 mol each of methyl 3,4-di-O-methylglucopyranoside, methyl 2,4-di-O-methylarabinopyranoside, methyl 2,3,4,6-tetra-O-methylgalactopyranoside and methyl 2,3,4,6-tetra-O-methylglucopyranoside as methylated sugar, and 1 mol of 3,22,24-tri-O-methyl soyasapogenol A as methylated sapogenol, when subjected to methanolysis after reduction.

reactant | methyl 2,4-di-O-methylarabinopyranoside | CO[C@@H]1C(OC)OC[C@H]([C@H]1O)OC | C8H16O5
reactant | methyl 2,3,4,6-tetra-O-methylgalactopyranoside | CO[C@H]1C(OC)O[C@@H]([C@@H]([C@@H]1OC)OC)COC | C11H22O6
reactant | methyl 2,3,4,6-tetra-O-methylglucopyranoside | CO[C@H]1C(OC)O[C@@H]([C@H]([C@@H]1OC)OC)COC | C11H22O6
product | methyl 3,4-di-O-methylglucopyranoside | 1 mol | CO[C@@H]1[C@H](C(OC)O[C@@H]([C@H]1OC)CO)O | C9H18O6
